US07332497B2
Cis-3-(4-imidazo[1,2-a]pyridin-2-ylphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine was prepared from cis-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.200 g, 0.453 mmol) and 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]imidazo[1,2-a]pyridine (0.250 g, 0.679 mmol) in a manner similar to that used for the preparation of cis-N-2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-fluorophenyl)-1,3-benzoxazol-2-amine. The compound was formed as a white powder (0.021 g, 9%). 1H NMR (DMSO-d6, 400 MHz) 1.57-1.73 (m, 4H), 2.08-2.50 (m, 12H), 2.16 (s, 3H), 3.37 (m, 1H), 4.82 (m, 1H), 6.92 (t, 1H), 7.27 (t, 1H), 7.61 (d, 1H), 7.74 (d, 2H), 8.15 (d, 2H), 8.24 (s, 1H), 8.56 (d, 1H); RP-HPLC Rt 8.16 min, 97% purity (5% to 85% acetonitrile/0.1M aqueous ammonium acetate, buffered to pH 4.5, over 20 min at 1 mL/min; λ=254 nm; Deltapak C18, 300 Å, 5 μm, 150×3.9 mm column); m/z 508 (MH+).

reactant | cis-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.453 mmol, 0.200 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]imidazo[1,2-a]pyridine | 0.679 mmol, 0.250 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1)C | C19H21BN2O2
product | Cis-3-(4-imidazo[1,2-a]pyridin-2-ylphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | N=1C(=CN2C1C=CC=C2)C2=CC=C(C=C2)C2=NN(C1=NC=NC(=C12)N)[C@@H]1CC[C@@H](CC1)N1CCN(CC1)C | C29H33N9
